US04366154
Step B, Preparation of 4-[3-(4-fluorobenzoyl)-8-azabicyclo[3.2.1]oct-8-yl]-1-(4-fluorophenyl)-1-butanone
To the resulting suspension is added dropwise with stirring, a solution of 3.33 g. (0.01 mol) 8-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-8-azabicyclo[3.2.1]octan-3-one in 50 ml. dry tetrahydrofuran over 20 minutes while the reaction temperature is maintained between -65° C. to -75° C. The cold reaction mixture is then permitted to stir for 11/2 hours, then allowed to warm to room temperature, after which it is placed in an oil bath at +60° to 65° for 4 hours. After standing for about 16 hours, 50 ml. of water and 100 ml. of diethyl ether is added and following agitation the layers are partitioned. The aqueous solution is extracted two additional times with diethyl ether and all ethereal extracts are combined, dried over anhydrous sodium sulfate and concentrated to afford a viscous oil. The oil is dissolved in 300 ml. of acetone, 20 ml. of 1.2 N hydrochloric acid is added and the solution stirred for 4 hours. The solution is concentrated in vacuo, 100 ml. of 3 N hydrochloric acid is added and the solution is extracted with 150 ml. of diethyl ether. The hydrochloric acid solution is made basic with 15% sodium hydroxide aqueous solution, then extracted three times with 100 ml. portions of diethyl ether.

reactant | 8-[3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl]-8-azabicyclo[3.2.1]octan-3-one | 0.01 mol | FC1=CC=C(C=C1)C1(OCCO1)CCCN1C2CC(CC1CC2)=O | C19H24FNO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
reactant | hydrochloric acid | 1.2 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[3-(4-fluorobenzoyl)-8-azabicyclo[3.2.1]oct-8-yl]-1-(4-fluorophenyl)-1-butanone | FC1=CC=C(C(=O)C2CC3CCC(C2)N3CCCC(=O)C3=CC=C(C=C3)F)C=C1 | C24H25F2NO2
